US06713471B1
A solution of t-butyl lithium (19.0 mL) was added dropwise to a solution of 2-(2-bromo-5-fluorophenyl)-2-methyl-1,3-dioxolane (4.02 g, 15.40 mmols) and triisopropyl borate (4.6 mL, 19.93 mmols in anhydrous THF (40 mL), stirring under an inert atmosphere at −78° C. The resulting yellow solution was stirred at −78° C. for ½ h and then allowed to warm to −15° C. The resulting boronic ester was hydrolyzed in situ with sat'd NH3Cl (aq) at room temperature. The reaction mixture was transferred to a separatory funnel, diluted with H2O (50 mL), and extracted with EtOAc (3×50 mL). The combined organics were washed with H2O, brine, dried over Na2SO4, and concentrated. The resulting residue was recrystallized from EtOAc and hexanes to give 4-fluoro-2-(2-methyl-1,3-dioxolan-2-yl)phenylboronic acid as an orange solid (2.62 g, 75%). 1H NMR (DMSO, 300 MHz) δ1.60 (s, 3H), 3.61-3.67 (m, 2H), 3.87-3.93 (m, 2H), 7.02-7.08 (m, 2H), 7.24-7.30 (m, 1H), 7.59 (s, 1H) ppm; 1H NMR (DMSO+D2O, 300 MHz) δ1.61 (s, 3H), 3.61-3.67 (m, 2H), 3.78 (brs, 2H) 3.89-3.94 (m, 2H), 7.04-7.10 (m, 2H), 7.26-7.31 (m, 1H) ppm.

reactant | t-butyl lithium | 19.0 mL | C(C)(C)(C)[Li]
reactant | 2-(2-bromo-5-fluorophenyl)-2-methyl-1,3-dioxolane | 15.40 mmols, 4.02 g | BrC1=C(C=C(C=C1)F)C1(OCCO1)C | C10H10BrFO2
reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
product | 4-fluoro-2-(2-methyl-1,3-dioxolan-2-yl)phenylboronic acid | 2.62 g, 75% | FC1=CC(=C(C=C1)B(O)O)C1(OCCO1)C | C10H12BFO4
